US07855216B2
Step 2: 3-Hydroxy-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
To a stirred solution of ethyl 4-chloro-nicotinate (2.05 g, 11.0 mmol) and sarcosine ethyl ester hydrochloride (4.75 g, 30.9 mmol) in anhydrous DMF (40 ml), under an argon atmosphere, was added sodium hydride (59.6 mmol, 60% in dispersion oil, 2.39 g) in portions over 20 minutes. On complete addition the mixture was heated at 80° C. for 1.5 hours. Potassium carbonate (1.52 g, 11.0 mmol) was then added and the mixture heated for a further 2 hours. The reaction mixture was then quenched by the addition of water (50 ml) and subsequently concentrated to provide a residue. The residue was partitioned between ethyl acetate (100 ml) and water (100 ml). The layers were separated, the aqueous phase was cooled to 0° C. and the pH adjusted to 7 by the addition of concentrated HCl. The aqueous phase was aged overnight and the resulting precipitate was filtered, washed with water and dried under vacuum at 60° C. to give a white solid (700 mg, 15%). LCMS (method B): RT=1.82 min, M+H+=221.

reactant | ethyl 4-chloro-nicotinate | 11.0 mmol, 2.05 g | ClC1=CC=NC=C1C(=O)OCC | C8H8ClNO2
reactant | sarcosine ethyl ester hydrochloride | 30.9 mmol, 4.75 g | Cl.C(C)OC(CNC)=O
reactant | sodium hydride | 59.6 mmol, 2.39 g | [H-].[Na+]
reactant | Potassium carbonate | 11.0 mmol, 1.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 3-Hydroxy-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 700 mg, 15% | C(C)OC(=O)C1=C(C=2C=NC=CC2N1C)O | C11H12N2O3
